US05773428
To a solution of 2-(R)-allyl-succinic acid 4-t-butyl ester (5 g, 0.00234 mol), 9-(S)-amino-4-oxa-1,7-diaza-tricyclo[9.6.1.012,17 ]octadeca-11(18),12,14,16-tetraen-8-one (6,38 g, 0.00234mol) in 50 mL DMF added HOBT (3.47 g, 0.026 mol), DMAP (80 mg), N-methylmorpholine (2.84 g, 0.028 mol), and EDCI (6.69 g, 0.035 mol). The mixture was stirred at room temperature overnight. The reaction mixture was diluted with EtOAc (300 mL) and washed with brine (2×100 mL), saturated NaHCO3 (2×100 mL) and brine (1×100 mL), and dried (MgSO4). Removal of the solvents gave 9 g of crude product. Column chromatographic purification (50% EtOAc/CH2Cl2) gave 7.5 g of pure (3R,9S)-3-(8-oxo-4-oxa-1,7-diaza-tricyclo[9.6.1.012,17 ]octadeca-11(18)12,14,16-tetraen-9-yl carbamoyl)-hex-5-enoic acid t-butyl ester, MS: 469(M+).

reactant | 2-(R)-allyl-succinic acid 4-t-butyl ester | 0.00234 mol, 5 g | C(C)(C)(C)OC(C[C@H](C(=O)O)CC=C)=O | C11H18O4
reactant | 9-(S)-amino-4-oxa-1,7-diaza-tricyclo[9.6.1.012,17 ]octadeca-11(18),12,14,16-tetraen-8-one | 0.00234mol, 6,38 g | N[C@@H]1C(NCCOCCN2C3=CC=CC=C3C(C1)=C2)=O | C15H19N3O2
reactant | HOBT | 0.026 mol, 3.47 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 0.028 mol, 2.84 g | CN1CCOCC1 | C5H11NO
reactant | EDCI | 0.035 mol, 6.69 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 80 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | hex-5-enoic acid t-butyl ester | C(C)(C)(C)OC(CCCC=C)=O | C10H18O2
